US07498440B2
Preparation of 1-butyl-4-[hydroxy(di-3-thienyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
A solution of n-Butyl lithium (2.5M in hexanes, 5.0 mL, 12.5 mmol) was chilled to −78° C. under Ar. 3-Bromothiophene (1.15 mL, 12.3 mmol) dissolved in ethyl ether (4.0 mL) was slowly added to the reaction mixture. The reaction was stirred for 30 min and then ethyl 1-azabicyclo[2.2.2]octane-4-carboxylate (0.7640 g, 4.16 mmol) in THF/Et2O (4 mL/4 mL) was added. The reaction was allowed to warm up from −78° C. to room temperature over 16 h then slowly quenched with water. The reaction was concentrated and the resulting brown solid was taken up in water and DCM. The organic phase was separated, dried over MgSO4, filtered and concentrated under vacuum to give a brown solid. The solid was dissolved in DMSO and purified by preparatory HPLC to give the title compound (0.1736 g, 9.4%). EI-MS m/z 362(M+) Rt (1.73 min).

reactant | n-Butyl lithium | 12.5 mmol, 2.5M, 5.0 mL | C(CCC)[Li]
reactant | 3-Bromothiophene | 12.3 mmol, 1.15 mL | BrC1=CSC=C1 | C4H3BrS
reactant | ethyl 1-azabicyclo[2.2.2]octane-4-carboxylate | 4.16 mmol, 0.7640 g | N12CCC(CC1)(CC2)C(=O)OCC | C10H17NO2
solvent | ethyl ether | 4.0 mL | C(C)OCC | C4H10O
solvent | THF Et2O | 4 mL | C1CCOC1.CCOCC
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-butyl-4-[hydroxy(di-3-thienyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.1736 g, 9.4% | [Br-].C(CCC)[N+]12CCC(CC1)(CC2)C(C2=CSC=C2)(C2=CSC=C2)O | InChI=1S/C20H28NOS2.BrH/c1-2-3-9-21-10-6-19(7-11-21,8-12-21)20(22,17-4-13-23-15-17)18-5-14-24-16-18;/h4-5,13-16,22H,2-3,6-12H2,1H3;1H/q+1;/p-1
